US04886814
N-[2-(4-Carboxyphenyl)-1-methylethyl]-2-hydroxy-2-(2-amino-thiazol-4-yl)ethanamine dihydrochloride
Prepared analogously to Example 9 by reaction of N-[2-(4-carboxyphenyl)-1-methylethyl]-2-hydroxy-2-(2-acetylamino-thiazol-4-yl)ethanamine and 1N hydrochloric acid.

reactant | N-[2-(4-carboxyphenyl)-1-methylethyl]-2-hydroxy-2-(2-acetylamino-thiazol-4-yl)ethanamine | C(=O)(O)C1=CC=C(C=C1)CC(C)NCC(C=1N=C(SC1)NC(C)=O)O | C17H21N3O4S
reactant | hydrochloric acid | 1N | Cl | ClH
product | N-[2-(4-Carboxyphenyl)-1-methylethyl]-2-hydroxy-2-(2-amino-thiazol-4-yl)ethanamine dihydrochloride | Cl.Cl.C(=O)(O)C1=CC=C(C=C1)CC(C)NCC(C=1N=C(SC1)N)O | InChI=1S/C15H19N3O3S.2ClH/c1-9(6-10-2-4-11(5-3-10)14(20)21)17-7-13(19)12-8-22-15(16)18-12;;/h2-5,8-9,13,17,19H,6-7H2,1H3,(H2,16,18)(H,20,21);2*1H
